US03934014
Diphenyl-pyrimid-5-yl-imidazol-1-yl-methane
26.2 g (0.1 mole) of diphenyl-pyrimid-5-yl-carbinol, melting point 161°C, are treated with a solution of 0.15 mol of thionyldiimidazole in 200 ml of dry acetonitrile and the mixture is heated to the boil for 10 minutes. Thereafter it is cooled, diluted with ice water and filtered. The residue is washed with water. 23.6 g (76% of theory) of a white, finely crystalline substance of formula ##SPC6##

reactant | diphenyl-pyrimid-5-yl-carbinol | 0.1 mole, 26.2 g | C1(=CC=CC=C1)C(O)(C=1C=NC=NC1)C1=CC=CC=C1 | C17H14N2O
reactant | thionyldiimidazole | 0.15 mol | S(=O)(C=1NC=CN1)C=1NC=CN1 | C6H6N4OS
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | Diphenyl-pyrimid-5-yl-imidazol-1-yl-methane | C1(=CC=CC=C1)C(N1C=NC=C1)(C=1C=NC=NC1)C1=CC=CC=C1 | C20H16N4
